US08535871B2
The inside of a reactor was sufficiently dried by vacuum heating, and the atmosphere inside the reactor was replaced with dry nitrogen. The reactor was charged with a Grignard reagent that was prepared in 350 ml of dehydrated tetrahydrofuran (dehydrated THF) using 9.7 g (0.40 mol) of a magnesium powder and 38.9 g (0.36 mol) of bromoethane 50 ml of a dehydrated THF solution of 49.8 g (0.30 mol) of 4-trifluoromethylcyclohexanone was added to the reactor over 15 minutes with stirring while cooling the solution at −5° C. using an ice bath. After increasing the temperature of the reactor to room temperature, the mixture was stirred for 2 hours. 500 ml of ice water and 100 ml of ice-cooled diluted sulfuric acid were then added to the mixture while sufficiently stirring the mixture. After separating the THF layer, the aqueous layer was extracted with diethyl ether to obtain an extract. The extract was combined with the THF layer, sequentially washed with a 5% sodium carbonate aqueous solution and water, and dried over sodium sulfate (desiccating agent). After removing sodium sulfate using a Buchner funnel, the organic solvent was evaporated. The residue was distilled under reduced pressure (30 mmHg). 1-Ethyl-4-trifluoromethylcyclohexanol was thus obtained (41.2 g (yield: 70%)).

reactant | magnesium | 0.40 mol, 9.7 g | [Mg] | Mg
reactant | bromoethane | 0.36 mol, 50 ml, 38.9 g | BrCC | C2H5Br
reactant | 4-trifluoromethylcyclohexanone | 0.30 mol, 49.8 g | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
product | 1-Ethyl-4-trifluoromethylcyclohexanol | yield: 70% | C(C)C1(CCC(CC1)C(F)(F)F)O | C9H15F3O
